US05498609
To a solution of 7-chloro-4,4-dimethoxy-1-[6-(2-methylbenzoyl-amino)nicotinoyl]-2,3,4,5-tetrahydro-1H-benzazepine (1 g) in acetone (10 ml) is added 1N hydrochloric acid (5 ml), and the mixture is stirred at room temperature for 6 hours. Water is added to the reaction solution, and the mixture is neutralized with aqueous sodium hydroxide solution, and extracted with dichloromethane. The extract is washed with water, dried over magnesium sulfate, and evaporated under reduced pressure to remove the solvent. The residue is purified by silica gel column chromatography to give 7-chloro-4-oxo-1-[6-(2-methylbenzoylamino )nicotinoyl]-2,3,4,5-tetrahydro-1H-benzazepine (0.92 g) as colorless amorphous.

reactant | 7-chloro-4,4-dimethoxy-1-[6-(2-methylbenzoyl-amino)nicotinoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 1 g | ClC=1C=CC2=C(CC(CCN2C(C2=CN=C(C=C2)NC(C2=C(C=CC=C2)C)=O)=O)(OC)OC)C1 | C26H26ClN3O4
reactant | hydrochloric acid | 1N, 5 ml | Cl | ClH
reactant | Water | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 7-chloro-4-oxo-1-[6-(2-methylbenzoylamino )nicotinoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 0.92 g | ClC=1C=CC2=C(CC(CCN2C(C2=CN=C(C=C2)NC(C2=C(C=CC=C2)C)=O)=O)=O)C1 | C24H20ClN3O3
